US05698584
Step 2: 2-Bromo-3-(4-(methylthio)phenyl)-2-cyclopenten-1-one
To a -78° C. solution of 4-bromothioanisole (35.1 g, 173 mmol) in THF (500 mL) was added nBuLi (1.6M in hexanes, 107.5 mL, 172 mmol). The solution was stirred for 45 min, then a solution of 2-bromo-2-cyclopenten-1-one (25.4 g, 158 mmol) in THF (150 mL) was added and the mixture was allowed to warm to 0° C. and was quenched with saturated aqueous NH4Cl. The majority of the solvent was removed in vacuo and the residue was suspended in water and extracted with two portions of EtOAc. The organic layers were washed with brine, dried over MgSO4, faltered and concentrated. This material was dissolved in DMF (300 mL), cooled to 0° C. and treated with PDC (72.4 g, 192 mmol). The resulting mixture was warmed to r.t. and stirred for 2 h, then poured into H2O (1.2 L) and extracted with two 500 mL portions of EtOAc. The organic layers were washed with brine, dried over MgSO4, filtered and concentrated to give the title compound as a light brown solid which was used directly in the next step.

reactant | 4-bromothioanisole | 173 mmol, 35.1 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | nBuLi | 172 mmol, 1.6M, 107.5 mL | [Li]CCCC
reactant | 2-bromo-2-cyclopenten-1-one | 158 mmol, 25.4 g | BrC=1C(CCC1)=O | C5H5BrO
reactant | PDC | 192 mmol, 72.4 g | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.2 L | O | H2O
product | 2-Bromo-3-(4-(methylthio)phenyl)-2-cyclopenten-1-one | BrC=1C(CCC1C1=CC=C(C=C1)SC)=O | C12H11BrOS
